US06277847B1
Step A Preparation of [7-chloro-2-(1-methylethyl)isoindolin-1-on-4-yl]hydrazine hydrochloride
A stirred solution of 4.0 grams (0.018 mole) of 4-amino-7-chloro-2-(1-methylethyl)isoindolin-1-one in 40 mL of concentrated hydrochloric acid was cooled in an ice-water bath, and a solution of 1.2 grams (0.018 mole) of sodium nitrite in 20 mL of water was added dropwise while maintaining the reaction mixture temperature under 5° C. Upon completion of addition, the reaction mixture was stirred for about 45 minutes, then a solution of 8.8 grams (0.039 mole) of tin(II) chloride in 20 mL of concentrated hydrochloric acid was added dropwise while still maintaining the reaction mixture temperature under 5° C. After this time the reaction mixture was stirred for about one hour at 5° C., then it was filtered to collect, after drying, 4.6 grams of subject compound, mp 186° C., dec. The NMR spectrum was consistent with the proposed structure.

reactant | 4-amino-7-chloro-2-(1-methylethyl)isoindolin-1-one | 0.018 mole, 4.0 grams | NC1=C2CN(C(C2=C(C=C1)Cl)=O)C(C)C | C11H13ClN2O
reactant | sodium nitrite | 0.018 mole, 1.2 grams | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 0.039 mole, 8.8 grams | [Sn](Cl)Cl
solvent | hydrochloric acid | 40 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 20 mL | Cl | ClH
product | [7-chloro-2-(1-methylethyl)isoindolin-1-on-4-yl]hydrazine hydrochloride | Cl.ClC=1C=CC(=C2CN(C(C12)=O)C(C)C)NN | InChI=1S/C11H14ClN3O.ClH/c1-6(2)15-5-7-9(14-13)4-3-8(12)10(7)11(15)16;/h3-4,6,14H,5,13H2,1-2H3;1H
